US07399774B2
6-(7-Oxo-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-nicotinamide
Using a method similar to Example A, using 7-hydroxy-2-tetralone (1.88 g, 11.6 mmol), 6-chloronicotinamide (1.81 g, 11.6 mmol) and K2CO3 (2.40 g, 17.4 mmol) gives the title compound (742 mg), after purification on silica gel (30% THF/DCM), as an amber foam. Mass spectrum (ion spray): m/z=283 (M+1); 1HNMR (DMSO-d6): 8.57 (s, 1H), 8.23 (d, 1H), 8.01 (s, 1H), 7.46 (s, 1H), 7.30 (d, 2H), 7.05 (d, 1H), 6.96 (m, 2H), 3.59 (s, 2H), 3.02 (t, 2H), 2.45 (t, 2H).

reactant | 7-hydroxy-2-tetralone | 11.6 mmol, 1.88 g | OC1=CC=C2CCC(CC2=C1)=O | C10H10O2
reactant | 6-chloronicotinamide | 11.6 mmol, 1.81 g | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
reactant | K2CO3 | 17.4 mmol, 2.40 g | C(=O)([O-])[O-].[K+].[K+]
product | 6-(7-Oxo-5,6,7,8-tetrahydro-naphthalen-2-yloxy)-nicotinamide | 742 mg | O=C1CCC=2C=CC(=CC2C1)OC1=NC=C(C(=O)N)C=C1 | C16H14N2O3
